US08426358B2
Synthesis of 3-(5-(butylthio)-1,3,4-thiadiazol-2-ylthio)pyrazine-2-carbonitrile
The title compound was prepared according to the procedure described in Example 4 by using 1,3,4-thiadiazole-2,5-dithiol (300 mg, 2.00 mmol), NaH (60% dispersion in mineral oil, 88 mg, 2.20 mmol), 1-iodobutane (0.263 ml, 2.30 mmol), NaH (60% dispersion in mineral oil, 88 mg, 2.20 mmol), and 3-chloropyrazine-2-carbonitrile (280 mg, 2.00 mmol) in DMF and benzene (8 ml, 1/1) by stirring at room temperature under nitrogen atmosphere overnight.

reactant | 1,3,4-thiadiazole-2,5-dithiol | 2.00 mmol, 300 mg | S1C(=NN=C1S)S | C2H2N2S3
reactant | NaH | 2.20 mmol, 88 mg | [H-].[Na+]
reactant | 1-iodobutane | 2.30 mmol, 0.263 ml | ICCCC | C4H9I
reactant | NaH | 2.20 mmol, 88 mg | [H-].[Na+]
reactant | 3-chloropyrazine-2-carbonitrile | 2.00 mmol, 280 mg | ClC=1C(=NC=CN1)C#N | C5H2ClN3
solvent | DMF | CN(C)C=O | C3H7NO
solvent | benzene | 8 ml | C1=CC=CC=C1 | C6H6
product | 3-(5-(butylthio)-1,3,4-thiadiazol-2-ylthio)pyrazine-2-carbonitrile | C(CCC)SC1=NN=C(S1)SC=1C(=NC=CN1)C#N | C11H11N5S3
